US09193692B2
C. 6-Bromo-4-(2-morpholinoethyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
N-(3,5-Dibromopyrazin-2-yl)-2-iodoacetamide (0.5 g, 1.188 mmol), diisopropylethylamine (0.415 mL, 2.376 mmol) and 2-morpholinoethanamine (0.162 g, 1.248 mmol) were combined in acetonitrile (5 mL). The solution was heated to 45° C. for 1 h. Solution was condensed and diluted with 75% ethyl acetate in hexanes. The resulting solid was filtered and the filtrate collected and condensed followed by purification via Biotage chromatography (0-75% ethyl acetate in hexanes then 0-10% methanol in ethyl acetate) to afford the title compound (0.228 g, 0.67 mmol, 56% yield). MS (ESI) m/z 342.4 [M]+, 344.4 [M+2]+.

reactant | N-(3,5-Dibromopyrazin-2-yl)-2-iodoacetamide | 1.188 mmol, 0.5 g | BrC=1C(=NC=C(N1)Br)NC(CI)=O | C6H4Br2IN3O
reactant | diisopropylethylamine | 2.376 mmol, 0.415 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-morpholinoethanamine | 1.248 mmol, 0.162 g | O1CCN(CC1)CCN | C6H14N2O
reactant | methanol | CO | CH4O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-4-(2-morpholinoethyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.67 mmol, 0.228 g, 56% yield | BrC=1N=C2C(=NC1)NC(CN2CCN2CCOCC2)=O | C12H16BrN5O2
